US06492368B1
Similarly to Example 1, reaction of 2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenyl]-1-piperazin-1-ylethan-1-one (“B”) and 4-propylphenylsulphonyl chloride gives the compound 1-[4-(4-propylphenylsulphonyl)piperazin-1-yl]-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenyl]ethan-1-one and, after hydrogenation, 4-{2-oxo-2-[4-(4-propylphenylsulphonyl)piperazin-1-yl]ethyl}benzamidine, FAB 429.

reactant | 2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenyl]-1-piperazin-1-ylethan-1-one | CC1=NC(=NO1)C1=CC=C(C=C1)CC(=O)N1CCNCC1 | C15H18N4O2
reactant | 4-propylphenylsulphonyl chloride | C(CC)C1=CC=C(C=C1)S(=O)(=O)Cl | C9H11ClO2S
product | 1-[4-(4-propylphenylsulphonyl)piperazin-1-yl]-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenyl]ethan-1-one | C(CC)C1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C(CC1=CC=C(C=C1)C1=NOC(=N1)C)=O | C24H28N4O4S
